US04053473
Benzoyl isothiocyanate is reacted with 2-[(2-aminoethyl)thiomethyl]benzimidazole by the procedure of Example 18 to give N-benzoyl-N'-[2-(2-benzimidazolylmethylthio)ethyl]thiourea. Removing the benzoyl group by the procedure of Example 18 gives N-[2-(2-benzimidazolylmethylthio)ethyl]thiourea.

reactant | Benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 2-[(2-aminoethyl)thiomethyl]benzimidazole | NCCSCC=1NC2=C(N1)C=CC=C2 | C10H13N3S
product | N-benzoyl-N'-[2-(2-benzimidazolylmethylthio)ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC=1NC2=C(N1)C=CC=C2 | C18H18N4OS2
